US04472305
Methylation of BocLeuOH (12.5 g.) using sodium hydride and methyl iodide gave BocMeLeuOH in 73% yield. Condensation of BocMeLeuOH (3.7 g.) and HMetNH2 hydrochloride salt (2.8 g.) by the mixed anhydride method using isobutyl chloroformate gave BocMeLeu-MetNH2 in 56% yield. De-t-butoxycarbonylation of BocMeLeu-MetNH2 (3.3 g.) using hydrogen chloride in ethyl acetate gave MeLeu-MetNH2 in 64% yield.

reactant | BocMeLeu-MetNH2 | 3.3 g | C(=O)(OC(C)(C)C)N([C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C | C17H33N3O4S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | MeLeu-MetNH2 | 64% yield | N([C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C | C12H25N3O2S
